US04585781
5-Bromo-1H-tetrazole-1-ethanol acetate (ester)
Bromine (69.1 g) in chloroform (80 ml) was added to a stirred refluxing solution of 1H-tetrazole-1-ethanol acetate (ester) (33.8 g) in acetic acid (200 ml) and chloroform (400 ml). After 72 h the mixture was cooled and evaporated, excess, saturated potassium carbonate solution was added and the mixture was extracted with ethyl acetate to give the title compound (48.2 g) as a cream solid, m.p. 55°-6° (from diethyl ether).

reactant | Bromine | 69.1 g | BrBr | Br2
reactant | 1H-tetrazole-1-ethanol acetate | 33.8 g | C(C)(=O)OCCN1N=NN=C1 | C5H8N4O2
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Bromo-1H-tetrazole-1-ethanol acetate | 48.2 g | C(C)(=O)OCCN1N=NN=C1Br | C5H7BrN4O2
